US06313136B1
Synthesis of N-(4-ethoxyphenyl)-8-(2-ethyl-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide
2,3-Dimethyl-8-(2-ethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxylic acid (0.15 g, 0.44 mmol) and o-Benzotriazol-1-yl-N,N,N′,N′-Tetramethyluronium tetrafluoroborate (TBTU)(0.14 g, 0.44 mmol) were added to methylene chloride (10 ml). 4-ethoxyanilin(0.19 g, 1.4 mmol) was added and the reaction mixture was stirred at ambient temperature for 72 h. The solvent was evaporated under reduced pressure and the residue was added to a column with silica gel and was purified by chromatography using methylene chloride:methanol (95:5) as eluent. The residue was treated with a hot mixture of hexane:ethyl acetate (2:1) and the product was filtered off and dried to obtain 0.14 g (74%) of the desired compound as white crystals.

reactant | 2,3-Dimethyl-8-(2-ethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxylic acid | 0.44 mmol, 0.15 g | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)CC)C(=O)O)C1C | C20H23N3O2
reactant | o-Benzotriazol-1-yl-N,N,N′,N′-Tetramethyluronium tetrafluoroborate | 0.44 mmol, 0.14 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1
reactant | 4-ethoxyanilin | 1.4 mmol, 0.19 g | C(C)OC1=CC=C(N)C=C1 | C8H11NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(4-ethoxyphenyl)-8-(2-ethyl-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide | 0.14 g, 74% | C(C)OC1=CC=C(C=C1)NC(=O)C=1C=C(C=2N(C1)C(=C(N2)C)C)NCC2=C(C=CC=C2C)CC | C28H32N4O2
